US07799787B2
5-Nitro-2-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridine
A mixture of 2-chloro-5-nitropyridine (1.6 g, 6.5 mmol), 4-[2-(trifluoromethyl)phenoxy]piperidine (1.2 g, 7.6 mmol), and DBU (2 mL, 13 mmol) in DMF (25 mL) was heated at 80-85° C. for 2 h. The EtOAc extract was washed three times with water, dried (MgSO4) and concentrated. CombiFlash chromatography (120 g, 20-40% EtOAc in hexanes in 20 min, 70 mL/min, 18 mL/fraction) gave the desired product as a yellow powder.

reactant | 2-chloro-5-nitropyridine | 6.5 mmol, 1.6 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 4-[2-(trifluoromethyl)phenoxy]piperidine | 7.6 mmol, 1.2 g | FC(C1=C(OC2CCNCC2)C=CC=C1)(F)F | C12H14F3NO
reactant | DBU | 13 mmol, 2 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 5-Nitro-2-{4-[2-(trifluoromethyl)phenoxy]piperidin-1-yl}pyridine | [N+](=O)([O-])C=1C=CC(=NC1)N1CCC(CC1)OC1=C(C=CC=C1)C(F)(F)F | C17H16F3N3O3
